US07589232B2
Step a) Formation of 2-(benzyloxy)-N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)acetamide
The titled compound was prepared following the procedure K using 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride and (benzyloxy)acetyl chloride as a yellow oil (88%). M+ (ESI): 588.5. HPLC, Rt: 5.76 min (Purity: 100%).

reactant | 6-({4-[(4-butylphenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one hydrochloride | Cl.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1
reactant | (benzyloxy)acetyl chloride | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
product | 2-(benzyloxy)-N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)acetamide | C(C1=CC=CC=C1)OCC(=O)N(C1=CC2=C(OC(OC2=O)(C)C)C=C1)CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCCC | C38H37NO5
